US04564630
3-Trifluoromethyl-2',4'-bis(N-butyl-carbamyloxy)-α-ethyl-benzhydrol
6.2 g. of 3-trifluoromethyl-2',4'-dihydroxy-α-ethyl-benzhydrol, 4.4 g. of butyl isocyanate and 0.06 g. of 4-dimethylamino-pyridine in 40 ml. of dichloromethane are refluxed for 60 minutes. The reaction mixture is cooled down, and the organic phase is extracted with a 5% aqueous potassium hydroxide solution and washed to neutral with water. The organic phase is dried over anhydrous magnesium sulfate, filtered and solvent is distilled off under reduced pressure. Crystallization of the residue from toluene yields 8.7 g. of the end product, which melts at 110° to 111° C.

reactant | 3-trifluoromethyl-2',4'-dihydroxy-α-ethyl-benzhydrol | FC(C=1C=C(C(C2=C(C=C(C=C2)O)O)(O)CC)C=CC1)(F)F | C16H15F3O3
reactant | butyl isocyanate | C(CCC)N=C=O | C5H9NO
catalyst | 4-dimethylamino-pyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-Trifluoromethyl-2',4'-bis(N-butyl-carbamyloxy)-α-ethyl-benzhydrol | FC(C=1C=C(C(C2=C(C=C(C=C2)OC(NCCCC)=O)OC(NCCCC)=O)(O)CC)C=CC1)(F)F | C26H33F3N2O5
